US07056917B2
(C) N4-[4-(tert-Butyl)-1,3-thiazol-2-yl]-2-aminoisonicotinamide
N4-[4-(tert-Butyl)-1,3-thiazol-2-yl]-2-(acetylamino)isonicotinamide (546 mg) dissolved in ethanol (12 ml) was added dropwise with concentrated hydrochloric acid (1.2 ml) at room temperature and stirred at 80-90° C. for 1 hour. The reaction solution was returned to room temperature, concentrated under reduced pressure, neutralized with 1 N sodium hydroxide and extracted with chloroform. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (chloroform→chloroform:methanol=60:1→20:1) to obtain 247.2 mg (52%) of the title compound as white crystals.

reactant | N4-[4-(tert-Butyl)-1,3-thiazol-2-yl]-2-(acetylamino)isonicotinamide | 546 mg | C(C)(C)(C)C=1N=C(SC1)NC(C1=CC(=NC=C1)NC(C)=O)=O | C15H18N4O2S
reactant | hydrochloric acid | 1.2 ml | Cl | ClH
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | N4-[4-(tert-Butyl)-1,3-thiazol-2-yl]-2-aminoisonicotinamide | 247.2 mg, 52% | C(C)(C)(C)C=1N=C(SC1)NC(C1=CC(=NC=C1)N)=O | C13H16N4OS
